US08212045B2
To a solution of 2-methylpyridin-3-ol (11.8 g, 108 mmol) in DMF at 0° C. was added sodium hydride (60% dispersion in oil, 4.32 g, 108 mmol) in small portions and the reaction was warmed to ambient temperature. To this mixture was added 5-bromo-3-nitropicolinonitrile (24.6 g, 108 mmol) and the reaction was stirred overnight at ambient temperature. The reaction was poured into water (1000 mL) and the aqueous layer extracted with EtOAc. The combined organic layers were washed with water (3×) and brine, dried over MgSO4 and concentrated in vacuo to yield 5-bromo-3-(2-methylpyridin-3-yloxy)picolinonitrile (15 g, 48%).

reactant | 2-methylpyridin-3-ol | 108 mmol, 11.8 g | CC1=NC=CC=C1O | C6H7NO
reactant | sodium hydride | 108 mmol, 4.32 g | [H-].[Na+]
reactant | 5-bromo-3-nitropicolinonitrile | 108 mmol, 24.6 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | water | 1000 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-bromo-3-(2-methylpyridin-3-yloxy)picolinonitrile | 15 g, 48% | BrC=1C=C(C(=NC1)C#N)OC=1C(=NC=CC1)C | C12H8BrN3O
